US07173134B2
A. N-methoxy-N-methylpentanamide
To a CH2Cl2 solution (200 mL) containing N-methoxy-N-methylamine hydrochloride (8.09 g, 82.9 mmol) and Et3N (12.6 g, 124 mmol) was added valeryl chloride (10 g, 82.9 mmol) dropwise at room temperature. The resulting solution bubbled vigorously and stirred for 2 hours after which time it was carefully quenched with H2O. The organic layer was separated and washed with 2.0 N NaOH. The organics were extracted with CH2Cl2, dried (MgSO4) and the solvent removed in vacuo. The resulting colorless oil was taken on without further purification.

reactant | N-methoxy-N-methylamine hydrochloride | 82.9 mmol, 8.09 g | Cl.CONC
reactant | Et3N | 124 mmol, 12.6 g | CCN(CC)CC | C6H15N
reactant | valeryl chloride | 82.9 mmol, 10 g | C(CCCC)(=O)Cl | C5H9ClO
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | N-methoxy-N-methylpentanamide | CON(C(CCCC)=O)C | C7H15NO2
